US08748613B2
Ethyl 2-phenyl-2-(piperidin-1-yl)acetate (985 mg, 3.98 mmol) was dissolved in dioxane (33 ml) and 37% HCl (10 ml) was slowly added. The reaction was refluxed for 48 hours and then it was evaporated under reduced pressure. The residue was triturated with acetonitrile (15 ml) and the solid was collected by filtration to obtain 2-phenyl-2-(piperidin-1-yl)acetic acid hydrochloride (876 mg, 86% yield) as a off-white solid. 1H NMR (300 MHz, DMSO-d6) ppm 10.57 (br. s., 1H), 7.33-7.67 (m, 5H), 5.27 (s, 1H), 2.84-3.21 (m, 4H), 1.64-1.98 (m, 4H), 1.31-1.64 (m, 2H)

reactant | Ethyl 2-phenyl-2-(piperidin-1-yl)acetate | 3.98 mmol, 985 mg | C1(=CC=CC=C1)C(C(=O)OCC)N1CCCCC1 | C15H21NO2
reactant | HCl | 10 ml | Cl | ClH
solvent | dioxane | 33 ml | O1CCOCC1 | C4H8O2
product | 2-phenyl-2-(piperidin-1-yl)acetic acid hydrochloride | 876 mg, 86% yield | Cl.C1(=CC=CC=C1)C(C(=O)O)N1CCCCC1 | InChI=1S/C13H17NO2.ClH/c15-13(16)12(11-7-3-1-4-8-11)14-9-5-2-6-10-14;/h1,3-4,7-8,12H,2,5-6,9-10H2,(H,15,16);1H
